US04322423
2,6-Dimethyl-3-bromo-4-(p-bromophenyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine hydrochloride
3 gm (0.008 mol) of 2,6-dimethyl-4-(p-bromophenyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine hydrochloride and 8 gm of aluminum bromide were dissolved in 100 ml of glacial acetic acid. The solution was cooled to 15° C., 1.4 gm of bromine were slowly added dropwise and the mixture was stirred several hours until the reaction had gone to completion. Then, the mixture was decomposed with ice water, made alkaline with ammonia, extracted with ethyl acetate and evaporated. The residue was chromatographed on silicagel with methylene chloride/methanol (95:5). Upon addition of ethereal hydrochloric acid, 2.25 gm (61% of theory) of the title compound, m.p. 261°-262° C., were obtained.

reactant | 2,6-dimethyl-4-(p-bromophenyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine hydrochloride | 0.008 mol, 3 gm | Cl.CC1=CC2=C(CN(CC2C2=CC=C(C=C2)Br)C)S1
reactant | aluminum bromide | 8 gm | [Br-].[Al+3].[Br-].[Br-]
reactant | bromine | 1.4 gm | BrBr | Br2
reactant | ammonia | N | H3N
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 2,6-Dimethyl-3-bromo-4-(p-bromophenyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine hydrochloride | Cl.CC1=C(C2=C(CN(CC2C2=CC=C(C=C2)Br)C)S1)Br | InChI=1S/C15H15Br2NS.ClH/c1-9-15(17)14-12(7-18(2)8-13(14)19-9)10-3-5-11(16)6-4-10;/h3-6,12H,7-8H2,1-2H3;1H
